US04051102
Piperitenone
sodium t-pentoxide, toluene; barium oxide, benzene; potassium t-butoxide, tetrahydrofuran; sodium hydride, tetrahydrofuran.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | barium oxide | [O-2].[Ba+2]
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Piperitenone | CC1=CC(=O)C(=C(C)C)CC1 | C10H14O
